US07253196B2
(5S)-5-isopropyl-2-{[(2R)-2-phenylpropyl]amino}-1,3-thiazol-4(5H)-one
Synthesis was performed from N-[(2R)-2-phenylpropyl]thiourea and 2-bromo-3-methylbutyric acid according to Method D3.

reactant | N-[(2R)-2-phenylpropyl]thiourea | C1(=CC=CC=C1)[C@H](CNC(=S)N)C | C10H14N2S
reactant | 2-bromo-3-methylbutyric acid | BrC(C(=O)O)C(C)C | C5H9BrO2
product | (5S)-5-isopropyl-2-{[(2R)-2-phenylpropyl]amino}-1,3-thiazol-4(5H)-one | C(C)(C)[C@H]1C(N=C(S1)NC[C@H](C)C1=CC=CC=C1)=O | C15H20N2OS
